US07683067B2
3-[5-({4-[2-(Dimethylamino)ethyl]piperazin-1-yl}sulfonyl)pyridin-2-yl]-2-hydroxy-1H-indole-6-carbonitrile hydrochloride
Starting materials: 2-oxoindoline-6-carbonitrile (added at 5-10° C.) and (2-{4-[(6-chloropyridin-3-yl)sulfonyl]piperazin-1-yl}ethyl)-N,N-dimethylamine. Yield: 8%: 1H NMR (D2O, 400 MHz) δ 8.19 (s, 1H), 7.74 (d, J=9 Hz, 1H), 7.28 (d, J=9 Hz, 1H), 7.20 (s, 1H), 7.03 (s, 1H), 3.43 (t, J=7 Hz, 2H), 3.34 (m, 4H), 3.20 (t, J=7 Hz, 2H), 3.09 (m, 4H), 2.90 (s, 6H); MS (ES) m/z 455 (M++1).

reactant | 2-oxoindoline-6-carbonitrile | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | (2-{4-[(6-chloropyridin-3-yl)sulfonyl]piperazin-1-yl}ethyl)-N,N-dimethylamine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)CCN(C)C | C13H21ClN4O2S
product | 3-[5-({4-[2-(Dimethylamino)ethyl]piperazin-1-yl}sulfonyl)pyridin-2-yl]-2-hydroxy-1H-indole-6-carbonitrile hydrochloride | Yield: 8% | Cl.CN(CCN1CCN(CC1)S(=O)(=O)C=1C=CC(=NC1)C1=C(NC2=CC(=CC=C12)C#N)O)C | InChI=1S/C22H26N6O3S.ClH/c1-26(2)7-8-27-9-11-28(12-10-27)32(30,31)17-4-6-19(24-15-17)21-18-5-3-16(14-23)13-20(18)25-22(21)29;/h3-6,13,15,25,29H,7-12H2,1-2H3;1H
